US07812160B2
A mixture of methyl {4-chloro-6-(dimethylamino)-2-[4-(2-naphthoylamino)benzyl]pyrimidin-5-yl}acetate (0.094 g, 0.19 mmol) and morpholine (0.048 mL, 0.55 mmol) in DMPU (2 mL) was heated at 150° C. in a sealed tube for 15 hours. After cooling to room temperature, the reaction mixture was poured into water and extracted with EtOAc. The combined organic extracts was washed sequentially with 1N HCl, saturated NaHCO3, and brine, dried over anhydrous MgSO4, filtered, and concentrated in vacuo. The crude product thus obtained was chromatographed over silica gel eluting with 5% EtOAc in CH2Cl2 to give methyl {4-(dimethylamino)-6-morpholin-4-yl-2-[4-(2-naphthoylamino)benzyl]pyrimidin-5-yl}acetate (0.096 g, 95% yield) as an oil.

reactant | methyl {4-chloro-6-(dimethylamino)-2-[4-(2-naphthoylamino)benzyl]pyrimidin-5-yl}acetate | 0.19 mmol, 0.094 g | ClC1=NC(=NC(=C1CC(=O)OC)N(C)C)CC1=CC=C(C=C1)NC(=O)C1=CC2=CC=CC=C2C=C1 | C27H25ClN4O3
reactant | morpholine | 0.55 mmol, 0.048 mL | N1CCOCC1 | C4H9NO
reactant | water | O | H2O
solvent | DMPU | 2 mL | CN1CCCN(C1=O)C | C6H12N2O
product | methyl {4-(dimethylamino)-6-morpholin-4-yl-2-[4-(2-naphthoylamino)benzyl]pyrimidin-5-yl}acetate | 0.096 g, 95% yield | CN(C1=NC(=NC(=C1CC(=O)OC)N1CCOCC1)CC1=CC=C(C=C1)NC(=O)C1=CC2=CC=CC=C2C=C1)C | C31H33N5O4
